US04458075
1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-(N-propionylanilino)piperidine hydrochloride
A mixture of 9.8 g of 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole, 10 g of 4-(N-propionylanilino)piperidine, 7.1 g potassium carbonate, and a few crystals potassium iodide in 125 ml of dimethylformamide was stirred at 75° C. for three hrs. The reaction mixture was cooled, filtered and concentrated to an oil. The oil was stirred with water and extracted with ether. The organic extracts were washed with water (2×), saturated sodium chloride solution and dried over anhydrous magnesium sulfate, filtered and concentrated. The residude was treated with ethereal hydrogen chloride to give 10 g (55%) of product, mp 155°-160° C.

reactant | 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole | 9.8 g | ClCCCC1=NOC2=C1C=CC(=C2)F | C10H9ClFNO
reactant | 4-(N-propionylanilino)piperidine | 10 g | C(CC)(=O)N(C1=CC=CC=C1)C1CCNCC1 | C14H20N2O
reactant | potassium carbonate | 7.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
product | 1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-(N-propionylanilino)piperidine hydrochloride | 10 g, 55% | Cl.FC1=CC2=C(C(=NO2)CCCN2CCC(CC2)N(C2=CC=CC=C2)C(CC)=O)C=C1 | InChI=1S/C24H28FN3O2.ClH/c1-2-24(29)28(19-7-4-3-5-8-19)20-12-15-27(16-13-20)14-6-9-22-21-11-10-18(25)17-23(21)30-26-22;/h3-5,7-8,10-11,17,20H,2,6,9,12-16H2,1H3;1H
